US06288091B1
A solution of acryloyl chloride (29.5 mL, 363 mmol) in CH2Cl2 (50 mL) was added dropwise (30 min) to an ice-cold solution of 4′-aminoacetophenone (49.0 g, 363 mmol) and Et3N (50.6 mL, 363 mmol) in CH2Cl2 (300 mL). The reaction mixture was stirred at 0° for 15 min and then was concentrated under reduced pressure. The residue was dissolved with EtOAc. The solution was washed successively with 10% aqueous HCl, saturated aqueous NaHCO3 and H2O. The organic phase was dried (MgSO4) and concentrated under reduced pressure to afford the desired N-(4-acetylphenyl)-2-propenamide (52 g, 76% yield) as a yellow solid: 1H NMR (400 MHz, CDCl3) δ8.17 (broad s, 1H), 7.93 (d, J=8.9 Hz, 2H), 7.72 (d, J=8.9 Hz, 2H), 6.47 (dd, J=1.0, 16.9 Hz, 1H), 6.33 (dd, J=10.2, 16.9 Hz, 1H), 5.80 (dd, J=1.0, 10.2 Hz, 1 H), 2.58 (s, 3H); MS (FAB) m/z 190 (MH)+.

reactant | acryloyl chloride | 363 mmol, 29.5 mL | C(C=C)(=O)Cl | C3H3ClO
reactant | 4′-aminoacetophenone | 363 mmol, 49.0 g | NC1=CC=C(C=C1)C(C)=O | C8H9NO
reactant | Et3N | 363 mmol, 50.6 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | N-(4-acetylphenyl)-2-propenamide | 52 g, 76% yield | C(C)(=O)C1=CC=C(C=C1)NC(C=C)=O | C11H11NO2
